US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0567 g, 0.193 mmol) and 2-bromo-1-phenylethanone (0.0487 g, 0.245 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (0.0410 g, 43.0%). EI-MS m/z 412(M+) Rt (1.90 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.193 mmol, 0.0567 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-bromo-1-phenylethanone | 0.245 mmol, 0.0487 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0410 g, 43.0% | [Br-].OC(C12CC[N+](CC1)(CC2)CC(C2=CC=CC=C2)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C28H30NO2.BrH/c30-26(23-10-4-1-5-11-23)22-29-19-16-27(17-20-29,18-21-29)28(31,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-15,31H,16-22H2;1H/q+1;/p-1
